US08420642B2
Preparation of [2-(5-bromo-pyridine-2-ylamino)-thiazole-4-yl]-methanol (“A6”)
Acetic acid 2-(5-bromo-pyridine-2-yl amino)-thiazole-4-ylmethyl ester (0.29 mmol) is suspended in ethanol (1 ml) and 1 M NaOH (1 ml) is added. The suspension is stirred at RT for 75 min. The precipitate is filtered, washed with water and dried 16 h in vacuo at 40° C. “A6” is obtained as a colourless powder in a yield of 56%; mp. 207.0-209.0° C.; HPLC (method C): 1.41 min); LC-MS (method A): 1.222 min, 285.95 (M+H+);

reactant | Acetic acid 2-(5-bromo-pyridine-2-yl amino)-thiazole-4-ylmethyl ester | 0.29 mmol | BrC=1C=CC(=NC1)NC=1SC=C(N1)COC(C)=O | C11H10BrN3O2S
reactant | NaOH | 1 M, 1 ml | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | [2-(5-bromo-pyridine-2-ylamino)-thiazole-4-yl]-methanol | yield of 56% | BrC=1C=CC(=NC1)NC=1SC=C(N1)CO | C9H8BrN3OS
